US08022062B2
(±)-1-(3-Fluorophenyl)ethyl bromide
Dissolve (±)-1-(3-fluorophenyl)ethanol (250 mg, 1.786 mmol) in carbon tetrachloride (10 mL). Add phosphorus tribromide (0.1 mL, 1.786 mmol) at 0° C. and stir the solution at room temperature overnight. Dilute the reaction mixture with dichloromethane and wash with brine. Dry the organic phase over Na2SO4, filter and concentrate in vacuo to obtain the title compound (285 mg) that was used without any further purification.

reactant | (±)-1-(3-fluorophenyl)ethanol | 1.786 mmol, 250 mg | FC=1C=C(C=CC1)C(C)O | C8H9FO
reactant | phosphorus tribromide | 1.786 mmol, 0.1 mL | P(Br)(Br)Br | Br3P
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | ClCCl | CH2Cl2
product | (±)-1-(3-Fluorophenyl)ethyl bromide | 285 mg | FC=1C=C(C=CC1)C(C)Br | C8H8BrF
